US05700836
1.30 g of ethyl (E)-4-[2-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzoate were placed in 10 ml of abs. ethanol/THF=1/1 and treated under argon with 4.9 ml of 3 N NaOH. After 40 h. at room temperature the mixture was poured on to ice and extracted with ethyl acetate. The organic phase was washed with water and saturated NaCl soln., dried and evaporated. Crystallization from hexane/ethyl acetate yielded 1.07 g of (E)-4-[2-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzoic acid as beige crystals of m.p. 144°-145°.

reactant | ethyl (E)-4-[2-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzoate | 1.30 g | C(C#CCC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C=C/C1=CC=C(C(=O)OCC)C=C1 | C30H36O3
reactant | NaOH | 3 N, 4.9 ml | [OH-].[Na+]
solvent | ethanol THF | C(C)O.C1CCOC1
product | (E)-4-[2-(3-pent-2-ynyloxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzoic acid | 1.07 g | C(C#CCC)OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C=C/C1=CC=C(C(=O)O)C=C1 | C28H32O3
